US07067529B2
To a stirred solution of 1-(3-ethoxy-benzoyl)-6-isopropoxy-7-methoxy-isoquinoline-4-carbaldehyde (31 mg, 0.079 mmol) in t-butanol (1 mL) and water (1 mL) solution was added sodium dihydrogenphosphate monohydrate (44 mg, 0.32 mmol), 2-methyl-2-butene (0.053 mL, 0.48 mmol) and sodium chlorite (43 mg, 0.48 mmol) at room temperature. The reaction suspension was then stirred at room temperature for 14 hrs. The resulting two-phase mixture was partitioned between dichloromethane and water and acidified to pH=3 by addition of acetic acid. The aqueous phase was then extracted with dichloromethane (3×20 mL). The combined extracts were washed with saturated aqueous sodium chloride solution (30 mL), dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to afford a brown semi-solid oil. The crude product was recrystallized in ethyl acetate to afford 1-(3-ethoxy-benzoyl)-6-isopropoxy-7-methoxy-isoquinoline-4-carboxylic acid (8 mg, 23% yield) as a light yellow solid. HR-MS m/e calcd for C23H23N1O6 (M−H+) 410.1598, found 410.1601; 1H NMR (300 MHz) compatible.

reactant | 1-(3-ethoxy-benzoyl)-6-isopropoxy-7-methoxy-isoquinoline-4-carbaldehyde | 0.079 mmol, 31 mg | C(C)OC=1C=C(C(=O)C2=NC=C(C3=CC(=C(C=C23)OC)OC(C)C)C=O)C=CC1 | C23H23NO5
reactant | sodium dihydrogenphosphate monohydrate | 0.32 mmol, 44 mg | O.P(=O)(O)(O)[O-].[Na+]
reactant | 2-methyl-2-butene | 0.48 mmol, 0.053 mL | CC(C)=CC | C5H10
reactant | sodium chlorite | 0.48 mmol, 43 mg | Cl(=O)[O-].[Na+]
solvent | t-butanol | 1 mL | C(C)(C)(C)O | C4H10O
solvent | water | 1 mL | O | H2O
product | 1-(3-ethoxy-benzoyl)-6-isopropoxy-7-methoxy-isoquinoline-4-carboxylic acid | 8 mg, 23% yield | C(C)OC=1C=C(C(=O)C2=NC=C(C3=CC(=C(C=C23)OC)OC(C)C)C(=O)O)C=CC1 | C23H23NO6
